US05415962
16.9 g of diphenylamine, 50.0 g of 9,9-dimethylfluorene, 10.0 g of potassium carbonate anhydride and 3.0 g of copper powder were added to 70 ml of o-dichlorobenze, followed by stirring for 8 hours at 180°-185° C. After the reaction, the reaction mixture was cooled and subjected to filtration. The filtrate was concentrated under reduced pressure to obtain a solid. An appropriate amount of methylethylketone was added to the solid to obtain a crystal. The crystal was recovered by filtration and purified by silica gel column chromatography (eluent: toluene/hexane) to obtain 28.2 g of 2-(N,N-diphenyl)amino-9,9-dimethylfluorenone (Yield: 79%; melting point: 144.2°-145.1° C.).

reactant | diphenylamine | 16.9 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | 9,9-dimethylfluorene | 50.0 g | CC1(C2=CC=CC=C2C=2C=CC=CC12)C | C15H14
reactant | methylethylketone | CC(=O)CC | C4H8O
catalyst | copper | 3.0 g | [Cu] | Cu
product | 2-(N,N-diphenyl)amino-9,9-dimethylfluorenone | 28.2 g, Yield: 79% | C1(=CC=CC=C1)N(C1=CC=CC=C1)C1C(C=2C(C3=CC=CC=C3C2C=C1)(C)C)=O | C27H23NO
